US07871998B2
tert-Butyl (4-{(1S,2R)-1-[(4-chlorophenyl)amino]-2-({[2-(4-chlorophenyl)-5,5-dimethyl 1,3-dioxan-2-yl]methyl}thio)-3-oxo-3-[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]propyl}phenoxy)acetate
Tetraisopropyl orthotitanate (0.23 ml, 0.77 mmol) was added to a solution of TiCl4 (1M in CH2Cl2, 2.25 ml, 2.25 mmol) in CH2Cl2 (22 ml) at 0° C. under inert atmosphere. The mixture was stirred for ten minutes. (4S)-3-[({[2-(4-Chlorophenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)acetyl]-4-phenyl-1,3-oxazolidin-2-one (1.44 g, 3.03 mmol) in dry CH2Cl2 (25 ml) was added dropwise over 45 minutes and the mixture was stirred for ten minutes. tert-Butyl (4-{(E)-[(4-chlorophenyl)imino]methyl}phenoxy)acetate (2.09 g, 6.04 mmol) in dry CH2Cl2 (25 ml) was added dropwise over 80 minutes. The mixture was cooled to −40° C. and stirred for 20 minutes. Ethyl diisopropyl amine (1.03 ml, 6.02 mmol) was added dropwise over 40 minutes and the mixture was stirred at −40° C. for ten minutes. The mixture was cooled to −78° C. and isopropanol (80 ml) was added. The temperature was allowed to reach room temperature over three hours. NH4Cl (10%, 80 ml) was added and the mixture was stirred for 35 minutes. Brine (200 ml) was added and the mixture was extracted twice with 400 ml diethyl ether. The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. Purification by flash-chromatography (10%-20% EtOAc in hexane) afforded 1.69 g (65%) of the title compound as a white solid. 1H-NMR (CDCl3, 200 MHz): δ 0.65 (s, 3H), 1.3 (s, 3H), 1.5 (s, 9H), 2.6-2.9 (m, 2H), 3.4 (m, 4H), 4.2 (m, 1H), 4.5 (s, 2H), 4.64-8 (m, 2H), 5.3 (m, 1H), 5.7 (d, 1H), 6.4 (m, 2H), 6.7-7.4 (m, 15H).

reactant | (4S)-3-[({[2-(4-Chlorophenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)acetyl]-4-phenyl-1,3-oxazolidin-2-one | 3.03 mmol, 1.44 g | ClC1=CC=C(C=C1)C1(OCC(CO1)(C)C)CSCC(=O)N1C(OC[C@@H]1C1=CC=CC=C1)=O | C24H26ClNO5S
reactant | tert-Butyl (4-{(E)-[(4-chlorophenyl)imino]methyl}phenoxy)acetate | 6.04 mmol, 2.09 g | ClC1=CC=C(C=C1)\N=C\C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C19H20ClNO3
reactant | Ethyl diisopropyl amine | 6.02 mmol, 1.03 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | 80 ml | [NH4+].[Cl-]
solvent | CH2Cl2 | 22 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | Brine | 200 ml | [Cl-].[Na+].O
catalyst | Tetraisopropyl orthotitanate | 0.77 mmol, 0.23 ml | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
catalyst | TiCl4 | 2.25 mmol, 1M, 2.25 ml | Cl[Ti](Cl)(Cl)Cl
solvent | isopropanol | 80 ml | C(C)(C)O | C3H8O
product | tert-Butyl (4-{(1S,2R)-1-[(4-chlorophenyl)amino]-2-({[2-(4-chlorophenyl)-5,5-dimethyl 1,3-dioxan-2-yl]methyl}thio)-3-oxo-3-[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]propyl}phenoxy)acetate | 1.69 g, 65% | ClC1=CC=C(C=C1)N[C@H]([C@H](C(N1C(OC[C@@H]1C1=CC=CC=C1)=O)=O)SCC1(OCC(CO1)(C)C)C1=CC=C(C=C1)Cl)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C43H46Cl2N2O8S
